US07696240B2
3-Morpholin-4-ylmethyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 3-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid ethyl ester (Lit. 5) was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 399.3 ([M−H]−).

reactant | 3-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1CN1CCOCC1 | C16H20N2O3
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-Morpholin-4-ylmethyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | N1(CCOCC1)CC1=C(N(C2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)C(=O)O | C25H24N2O3
